US07544699B2
A solution of (2S)-{[5-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid methyl ester (28 mg, 0.052 mmol) in THF-MeOH (2.0 mL) was treated with LiOH solution (2.0M, 0.400 mL) by the general procedure I to give 24 mg of (2S)-{[5-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid as a white solid.

reactant | (2S)-{[5-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid methyl ester | 0.052 mmol, 28 mg | COC([C@H](C(C)(C)C)NC(=O)C=1N=C(C2=CC=CC(=C2C1)OC1=CC=C(C=C1)C(C)(C)C)CC1CCCC1)=O | C33H42N2O4
reactant | LiOH | 2.0M, 0.400 mL | [Li+].[OH-]
solvent | THF MeOH | 2.0 mL | C1CCOC1.CO
product | (2S)-{[5-(4-tert-Butyl-phenoxy)-1-cyclopentylmethyl-isoquinoline-3-carbonyl]-amino}-3,3-dimethyl-butyric acid | 24 mg | C(C)(C)(C)C1=CC=C(OC2=C3C=C(N=C(C3=CC=C2)CC2CCCC2)C(=O)N[C@H](C(=O)O)C(C)(C)C)C=C1 | C32H40N2O4
